US06911468B2
(2) 2-(4-Benzyloxyphenyl)-5-methyl-1-{2-[4-(4-pentylcyclohexylmethoxy)phenyl]ethyl}-1H-pyrrole
To a solution of 4-{2-[2-(4-benzyloxyphenyl)-5-methyl-1H-pyrrol-1-yl]ethyl}phenol (970 mg, 2.53 mmol), 4-pentylcyclohexylmethanol (699 mg, 3.79 mmol) and triphenylphosphine (994 mg, 3.79 mmol) in toluene (2 ml) was added 1,1′-(azodicarbonyl)dipiperidine (956 mg, 3.79 mmol) and the mixture was stirred at 80° C. for 12 hours. The reaction solution was poured into water and the mixture was extracted with ethyl acetate. The extract was dried over magnesium sulfate anhydride and the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=30:1) to give the object compound as a solid. 1.11 g (yield: 79.9%)

reactant | 4-{2-[2-(4-benzyloxyphenyl)-5-methyl-1H-pyrrol-1-yl]ethyl}phenol | 2.53 mmol, 970 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N(C(=CC1)C)CCC1=CC=C(C=C1)O | C26H25NO2
reactant | 4-pentylcyclohexylmethanol | 3.79 mmol, 699 mg | C(CCCC)C1CCC(CC1)CO | C12H24O
reactant | triphenylphosphine | 3.79 mmol, 994 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 3.79 mmol, 956 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-(4-Benzyloxyphenyl)-5-methyl-1-{2-[4-(4-pentylcyclohexylmethoxy)phenyl]ethyl}-1H-pyrrole | yield: 79.9% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N(C(=CC1)C)CCC1=CC=C(C=C1)OCC1CCC(CC1)CCCCC | C38H47NO2
